US07700625B2
A solution of 4-toluenesulphonamide (2.44 g, 14.28 mmol) in N,N-dimethylformamide (10 ml) was added dropwise to a vigourously stirred suspension of sodium hydride (1.2 g, 60 wt % in mineral oil, 30.0 mmol) in anhydrous N,N-dimethylformamide (60 ml). The mixture was stirred at room temperature for 1 hour, at 110° C. for 1 hour and was then cooled to 60° C. and a solution of 2,3-bis-bromomethyl-1,4-difluorobenzene (4.28 g, 14.28 mmol) in N,N-dimethylformamide (30 ml) was added dropwise. The mixture was stirred at 60° C. for 1 hour and then at room temperature for 16 hours. The solvent was removed in vacuo and the residue partitioned between dichloromethane and 1M hydrochloric acid. The organic layer was separated, washed with 5% aqueous potassium carbonate solution, the organics were separated and the solvent removed in vacuo. The residue was rinsed with diethyl ether, filtered and the solids sucked dry under reduced pressure to afford 4,7-difluoro-2-(toluene-4-sulfonyl)isoindoline (2.46 g, 56%) as a pale tan solid. 1H NMR (DMSO-d6) 7.82 (2H, d), 7.43 (2H, d), 7.15 (2H, dd), 4.66 (4H, s), 2.36 (3H, s). MS: [M+H]+ 310.

reactant | 4-toluenesulphonamide | 14.28 mmol, 2.44 g | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | sodium hydride | 30.0 mmol, 1.2 g | [H-].[Na+]
reactant | 2,3-bis-bromomethyl-1,4-difluorobenzene | 14.28 mmol, 4.28 g | BrCC1=C(C=CC(=C1CBr)F)F | C8H6Br2F2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4,7-difluoro-2-(toluene-4-sulfonyl)isoindoline | 2.46 g, 56% | FC1=C2CN(CC2=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C15H13F2NO2S
